US08202885B2
44 mg of rac-N-(3-{[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-amino}-propyl)-3-methoxy-2-methoxymethyl-2-methyl-propionamide were dissolved in anh. DCM. 50 mg of magnesium bromide ethyl etherate and 77 mg of isobutyric anhydride were added. The reaction mixture was stirred for 5 h at room temperature, quenched with sat.-NaHCO3 and extracted with DCM. The organic phase was washed with sat.-NaHCO3, dried over anh. Na2SO4 and concentrated in vacuo. The resulting crude material was purified by CC using EtOAc/MeOH/NEt3 98/2/1 as eluant to yield 22 mg of rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(3-methoxy-2-methoxymethyl-2-methyl-propionylamino)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester as a yellowish oil.

reactant | rac-N-(3-{[2-((1R*,2R*,4R*)-2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-ethyl]-methyl-amino}-propyl)-3-methoxy-2-methoxymethyl-2-methyl-propionamide | 44 mg | O[C@@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)CCN(CCCNC(C(COC)(C)COC)=O)C | C27H42N2O4
reactant | magnesium bromide ethyl etherate | 50 mg | CCOCC.[Mg+2].[Br-].[Br-]
reactant | isobutyric anhydride | 77 mg | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | rac-isobutyric acid (1R*,2R*,4R*)-2-(2-{[3-(3-methoxy-2-methoxymethyl-2-methyl-propionylamino)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl ester | 22 mg | COCC(C(=O)NCCCN(CC[C@]1([C@H]2C=C([C@@H](C1)CC2)C2=CC=CC=C2)OC(C(C)C)=O)C)(C)COC | C31H48N2O5
